US05073629
A solution of 5-bromo-1-pentene (4.8 g) in anhydrous THF was added dropwise to magnesium turnings (1 g) in THF (15 ml), under nitrogen with vigorous stirring. After the initial exothermic reaction had subsided, the mixture was stirred at 45° C. for 4 hours. A solution of 4-dimethylamino-2,2-diphenylpentanal (1.2 g), as prepared above, dissolved in THF (5 ml) was then added. The resultant mixture was stirred for 18 hours. Saturated ammonium chloride solution was added and the aqueous mixture was partitioned between water and ethyl acetate (3×). The combined organic layers were washed with brine and water (once each), and dried (MgSO4). Rotary evaporation of the solution gave a crude material which was flash-chromatographed over silica gel. Elution with chloroform (CHCl3)/methanol (20:1) yielded 0.6 g of 2-dimethylamino-4,4-diphenyl-9-decene-5-ol, as a mixture of two isomers.

reactant | 5-bromo-1-pentene | 4.8 g | BrCCCC=C | C5H9Br
reactant | magnesium | 1 g | [Mg] | Mg
reactant | 4-dimethylamino-2,2-diphenylpentanal | 1.2 g | CN(C(CC(C=O)(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C19H23NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-dimethylamino-4,4-diphenyl-9-decene-5-ol | 0.6 g | CN(C(C)CC(C(CCCC=C)O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H33NO
